US08710043B2
Step 3. 6-(Benzyloxy)-5-nitropicolinaldehyde
To a cooled (0° C.) stirred mixture of (2-(benzyloxy)-3-nitro-6-vinylpyridine (0.5 g, 0.0019 mol) in acetone:water (1:1, 5 mL), was added OsO4 (16.39 mg, 0.000064 mol, Aldrich) and NaIO4 (1.67 g, 0.0078 mol, Aldrich). The reaction mixture was stirred for 4 h at room temperature. After completion of the reaction (monitored by TLC, 10% EtOAc in hexane), the reaction mixture was quenched with water (10 mL) and extracted with EtOAc (5 mL×3). The organic layers were combined, dried over anhydrous sodium sulfate and purified by column chromatography, silica gel (60-120 mesh) using 5-7% EtOAc in petroleum ether as an eluent to afford the title compound. 1H NMR (400 MHz, CDCl3) δ: 10.00 (s, 1H), 8.38 (d, J=6 Hz, 1H), 7.69 (d, J=6 Hz, 1H), 7.54 (d, J=5.7 Hz, 2H), 7.41-7.37 (m, 3H), 5.69 (s, 2H).

reactant | 2-(benzyloxy)-3-nitro-6-vinylpyridine | 0.0019 mol, 0.5 g | C(C1=CC=CC=C1)OC1=NC(=CC=C1[N+](=O)[O-])C=C | C14H12N2O3
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | acetone water | 5 mL | CC(=O)C.O
solvent | hexane | CCCCCC | C6H14
catalyst | OsO4 | 0.000064 mol, 16.39 mg | O=[Os](=O)(=O)=O
product | 6-(Benzyloxy)-5-nitropicolinaldehyde | C(C1=CC=CC=C1)OC1=C(C=CC(=N1)C=O)[N+](=O)[O-] | C13H10N2O4
